spice
* SPICE Netlist for the given circuit
* Voltage Source
Vin 2 0 DC Vin
* PMOS Transistor
M2 4 2 7 7 PMOS_Model
* NMOS Transistor
? Missing component
* Power Supply
VDD 7 0 DC VDD
* Models (Assuming they are defined elsewhere)
.model PMOS_Model PMOS
.model NMOS_Model NMOS
* End of netlist
